US09303040B2
Methyl 2-(4-fluorophenyl)acetate (5.0 g, 29.73 mmol), NaOMe (0.08031 g, 1.487 mmol) and paraformaldehyde (0.9374 g, 31.22 mmol) were dissolved/suspended in 200 mL of DMSO and allowed to stir overnight at ambient temperature. The reaction was quenched with the addition of 1000 mL of ice-cold water. The reaction was neutralized with the addition of HCl solution, and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water twice, once with brine, separated, dried over MgSO4, filtered, and concentrated in vacuo to afford the crude product as a yellow oil. Column chromatography on silica gel eluting with 25:75 hexanes:ethyl acetate afforded methyl 2-(4-fluorophenyl)-3-hydroxypropanoate (3.0 g, 50.91% yield) as a colorless oil.

reactant | Methyl 2-(4-fluorophenyl)acetate | 29.73 mmol, 5.0 g | FC1=CC=C(C=C1)CC(=O)OC | C9H9FO2
reactant | paraformaldehyde | 31.22 mmol, 0.9374 g | C=O | CH2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 200 mL | CS(=O)C | C2H6OS
catalyst | NaOMe | 1.487 mmol, 0.08031 g | C[O-].[Na+]
product | methyl 2-(4-fluorophenyl)-3-hydroxypropanoate | 3.0 g, 50.91% yield | FC1=CC=C(C=C1)C(C(=O)OC)CO | C10H11FO3
